US07186726B2
C. Synthesis of [4-(3,3-diphenyl-propionyl)-piperazin-1-yl]-acetic acid ethyl ester
To a solution of 3,3-diphenyl-1-piperazin-1-yl-propan-1-one (2.0 g, 6.79 mmol) and ethyl bromoacetate (0.94 ml, 8.49 mmol) in dry DMF (15 ml) was added K2CO3 (2.7 g, 19.53 mmol) and the mixture was heated to 70° C. overnight. Reaction mixture was cooled and water (32 ml) was added. The product was extracted with ether, dried and evaporated. The residue was purified by column chromatography using hexane:ethyl acetate (1:4) to give the desired product in 60% yield.

reactant | 3,3-diphenyl-1-piperazin-1-yl-propan-1-one | 6.79 mmol, 2.0 g | C1(=CC=CC=C1)C(CC(=O)N1CCNCC1)C1=CC=CC=C1 | C19H22N2O
reactant | ethyl bromoacetate | 8.49 mmol, 0.94 ml | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 19.53 mmol, 2.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 32 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | [4-(3,3-diphenyl-propionyl)-piperazin-1-yl]-acetic acid ethyl ester | 60% yield | C(C)OC(CN1CCN(CC1)C(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C23H28N2O3
